2199-01-14 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2199-1-13**] 07:00 PM
 ARTERIAL LINE - START [**2199-1-13**] 10:50 PM
 MULTI LUMEN - START [**2199-1-13**] 10:51 PM
 STOOL CULTURE - At [**2199-1-13**] 11:29 PM
   for C-diff
 NASAL SWAB - At [**2199-1-13**] 11:31 PM
   MRSA
   [**2199-1-13**] Events:
   - Gave an additional 1L of NS and 1L of D5W with 150mEq of bicarb
   overnight, able to titrate dopamine down, switched to levophed because
   of compatibility with other medications
   - GPC's in sputum
   - Replaced K
   - Replaced Ca
   - Replaced Phos
   - Able to wean pressors completely
   - Able to wean sedation, pt responsive, following commands.  Weaned
   vent to PSV, RSBI 30's, did well with SBT.  Plan to extubate in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Fentanyl - [**2199-1-14**] 01:15 AM
   Midazolam (Versed) - [**2199-1-14**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-14**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 81 (75 - 104) bpm
   BP: 98/52(67) {94/50(65) - 148/80(105)} mmHg
   RR: 14 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (5 - 7)mmHg
   Total In:
                                                                  6,315 mL
                                                                  1,411 mL
   PO:
   TF:
                                                                     29 mL
   IVF:
                                                                  1,195 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    425 mL
   Urine:
                                                                    430 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,885 mL
                                                                    986 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.41/41/138/24/1
   Ve: 5.4 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General: intubated, responsive to commands
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRLA
   Neck: supple, JVP not elevated, no LAD, RIJ in place
   Lungs: Clear to auscultation bilaterally, bronchial breath sounds at
   the bases, rhonchi BL, no crackles or wheezes
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur at the
   apex, no rubs or gallops
   Abdomen:  J tube in place, no erythema, soft, non-tender,
   non-distended, hypoactive bowel sounds present, no rebound tenderness
   or guarding, no organomegaly
   Ext: cold, mottled appearance of extremities, 2+ pulses, no edema,
   Neuro:  intubated, contractures present BL UE and LE, worse on the
   right, able to communicate by shaking and nodding
   Labs / Radiology
   250 K/uL
   10.1 g/dL
   214 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.1 mEq/L
   17 mg/dL
   114 mEq/L
   144 mEq/L
   30.6 %
   20.3 K/uL
        [image002.jpg]
                             [**2199-1-13**]  09:06 PM
                             [**2199-1-13**]  10:38 PM
                             [**2199-1-14**]  02:29 AM
                             [**2199-1-14**]  02:41 AM
                             [**2199-1-14**]  06:11 AM
   WBC
   20.3
   Hct
   30.6
   Plt
   250
   Cr
   0.5
   TCO2
   24
   22
   25
   27
   Glucose
   214
   Other labs: PT / PTT / INR:26.0/38.0/2.6, Lactic Acid:0.8 mmol/L,
   Ca++:6.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is a 62 yo M with PMH of HTN, type 2 DM, embolic and hemorrhagic
   CVA, and history of DVT who presents with lethargy likely secondary to
   infectious source
   .
   # Septic Shock:  Pt has leukocytosis, tachypnea, elevated lactate,
   hypotension however not tachycardic, but suggestive of septic shock.
   Source likely pneumonia given chest x-ray and purulent sputum.  Other
   possible source could be C diff given foul smelling stool, however no
   recent antibiotic use.  Cultures sent in ED.  If patient's mental
   status worsens or worsens clinically consider LP to rule out
   meningitis, although very unlikely.
   - Follow cultures, reculture if spikes
   - Send C diff toxin
   - Legionella antigen
   - Check for flu, place on precautions until negative
   - Continue antibiotics, however will narrow to Vanc/Zosyn for possible
   HAP and continue Flagyl PO for possible C diff until negative toxin.
   - Goal directed therapy, follow CVP with goal [**7-31**], with fluids and
   pressors as needed goal MAP > 65, UOP 30cc/hr
   - Continue mechanical ventilation for airway protection
   .
   # AMS:  Likely secondary to infection, however given history of CVA's
   could be seizure activity.  Will monitor for signs of seizure activity,
   will get EEG if evidence of seizures.  No sign of acute hemorrhage or
   stroke by head CT today.  As above consider LP if mental status
   worsens.
   - Hold sedating medications including oral morphine, gabapentin,
   mirtazapine, however will continue baclofen and duloxetine given risk
   of withdrawal.
   - Mechanical ventilation for airway protection
   .
   # Acute renal failure:  Likely secondary to hypotension/septic shock.
   Likely will improve with perfusion.
   - Urine lytes
   - Trend
   .
   # Hypertension:  Hold home regimen of lasix and lisinopril given
   hypotension in the ED.
   .
   # History of CVAs: bilateral embolic cerebellar [**2188**], hemorrhagic left
   thalamic [**2190**].  Continue simvastatin, anticoagulated with plavix.
   Continue baclofen for contractures.
   .
   # Type II Diabetes mellitus:  Monitor blood sugars QID, insulin sliding
   scale.  Hold gabapentin and morphine given possibility of sedation.
   .
   # Chronic Constipation:  Continue aggressive bowel regimen including
   colace, miralax, reglan, lactulose, biscodyl, fleet enemas, and
   golytely PRN.
   .
   # Dysphagia:  PEG in place, tube feeds when stable.
   .
   # Depression:  Continue duloxetine, hold mirtazapine given possible
   sedation.
   .
   # Hypothyroidism:  Continue levothyroxine.
   .
   # h/o DVT:  Will hold coumadin for now, check INR in AM, bridge with
   lovenox if needed.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: therapeutic on coumadin now, but will hold for now,
   lovenox as needed, PPI
   .
   # Access: R IJ, left A line
   .
   # Code: Full code confirmed with HCP
   .
   # Communication:  Sons and daughter in law
   .
   # Disposition: pending above
 .H/O CVA (STROKE, CEREBRAL INFARCTION),
   HEMORRHAGIC
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2199-1-14**] 03:38 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-1-13**] 10:50 PM
   Multi Lumen - [**2199-1-13**] 10:51 PM
   Prophylaxis:
   DVT:  on coumadin, therapeutic
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2199-01-15 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - PICC placed
   - d/c'd mirilax/lactulose
   - TSH
   - FS well controlled <150
   - CM involved, will talk to fam about [**Last Name (un) 956**] house
   - Coag + staph in sput.  flu and legionella negative
   - C diff positive-cont. PO flagyl
   - Pressures dropped to 80s overnight, given 2 boluses of 500 cc NS,
   followed by 1 L to keep pressures greater than 90-but continued to
   trend down to 70s-Started on LEVO
 INVASIVE VENTILATION - STOP [**2199-1-14**] 09:00 AM
 PICC LINE - START [**2199-1-14**] 05:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-1-14**] 09:12 PM
   Piperacillin - [**2199-1-15**] 04:14 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-1-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-15**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.6
C (96
   HR: 79 (64 - 93) bpm
   BP: 87/59(66) {87/59(66) - 87/59(66)} mmHg
   RR: 23 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (3 - 11)mmHg
   Total In:
                                                                  4,209 mL
                                                                  2,559 mL
   PO:
   TF:
                                                                    962 mL
                                                                    287 mL
   IVF:
                                                                  2,767 mL
                                                                  2,211 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    510 mL
   Urine:
                                                                  1,530 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                  2,049 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (522 - 522) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: 7.41/41/138/28/1
   Ve: 4.7 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General: Responsive to commands, garbled speech-at baseline per family
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRLA
   Neck: supple, JVP not elevated, no LAD, RIJ in place
   Lungs: Clear to auscultation bilaterally, bronchial breath sounds at
   the bases, rhonchi BL, no crackles or wheezes
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur at the
   apex, no rubs or gallops
   Abdomen:  J tube in place, no erythema, soft, non-tender,
   non-distended, hypoactive bowel sounds present, no rebound tenderness
   or guarding, no organomegaly
   Ext: cold, mottled appearance of extremities, 2+ pulses, no edema,
   Neuro:  intubated, contractures present BL UE and LE, worse on the
   right, able to communicate by shaking and nodding
   Labs / Radiology
   189 K/uL
   9.4 g/dL
   145 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   9 mg/dL
   116 mEq/L
   144 mEq/L
   28.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2199-1-13**]  09:06 PM
                             [**2199-1-13**]  10:38 PM
                             [**2199-1-14**]  02:29 AM
                             [**2199-1-14**]  02:41 AM
                             [**2199-1-14**]  06:11 AM
                             [**2199-1-15**]  03:00 AM
   WBC
   20.3
   12.3
   Hct
   30.6
   28.0
   Plt
   250
   189
   Cr
   0.5
   0.4
   TCO2
   24
   22
   25
   27
   Glucose
   214
   145
   Other labs: PT / PTT / INR:24.7/35.1/2.4, Lactic Acid:0.8 mmol/L,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   This is a 62 yo M with PMH of HTN, type 2 DM, embolic and hemorrhagic
   CVA, and history of DVT who presents with lethargy likely secondary to
   infectious source
   .
   # Septic Shock:  resolved, Pt had leukocytosis, tachypnea, elevated
   lactate, hypotension. Source likely pneumonia given chest x-ray and
   purulent sputum.  Other possible source could be C diff given foul
   smelling stool, however no recent antibiotic use.  Cultures sent in
   ED.  Flu and Legionella negative.  CXR similar to previous film.
   - GPC
s in pairs, chains and clusters in sputum from ED, continue
   vancomycin for gram positive coverage for MRSA.  D/c Zosyn as no
   supportive Cx data at this point
   - C diff toxin positive, continue PO flagyl
   - Intermittently requiring pressors or fluids for BP control, continue
   to monitor closely with A line, will d/c line in afternoon if stable
   .
   # AMS:  resolved, Likely secondary to infection
   - continue home medications including oral morphine, gabapentin,
   mirtazapine
   .
   # Acute renal failure:  resolved with volume resuscitation, lLikely
   secondary to hypotension/septic shock-Stable/Resolved.
   - Trend
   .
   # Hypertension:  Hold home regimen of lasix and lisinopril given
   hypotension in the ED.  Can restart when/if becomes hypertensive.
   .
   # History of CVAs: bilateral embolic cerebellar [**2188**], hemorrhagic left
   thalamic [**2190**].  Continue simvastatin, anticoagulated with plavix.
   Continue baclofen for contractures.
   .
   # Type II Diabetes mellitus:  Monitor blood sugars QID, insulin sliding
   scale.  Restart gabapentin and morphine
   -Sugars well controlled
   .
   # Chronic Constipation:   Will discontinue miralax and lactulose for
   now given loose stools and monitor bowel movements.  Continue bowel
   regimen including colace, reglan, biscodyl, fleet enemas as needed,
   though with C diff, likely has infectious loose stools
   .
   # Dysphagia:  J tube in place, nutrition following
   .
   # Depression:  Continue duloxetine, mirtazapine
   .
   # Hypothyroidism:  Continue levothyroxine.
   .
   # h/o DVT:  INR 2.4, Received 3 mg Coumadin this AM, Recheck in AM
   .
   # FEN: Bolus LR PRN, replete electrolytes, TF
   .
   # Prophylaxis: therapeutic on coumadin now, but will hold for now,
   lovenox as needed, PPI
   .
   # Access: R IJ, left A line, PICC
   .
   # Code: Full code confirmed with HCP
   .
   # Communication:  [**Name (NI) 3643**], wife and daughter in law
   .
   # Dispo: ICU now, pending pressures may be able to go to rehab tomorrow
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-1-13**] 10:50 PM
   Multi Lumen - [**2199-1-13**] 10:51 PM
   PICC Line - [**2199-1-14**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-01-16 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cuff pressure << than art line, art line/IJ left in place
   - Agreed to return to [**Doctor First Name 3698**] house, pending wider search
   - CE negative @ 3pm
   - PVCs overnight, resolved with electrolyte repletion
 BLOOD CULTURED - At [**2199-1-15**] 08:00 AM
   peripheral stick and central line
 EKG - At [**2199-1-15**] 08:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2199-1-15**] 04:14 AM
   Vancomycin - [**2199-1-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-1-16**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 75 (60 - 88) bpm
   BP: 136/74(99) {99/53(70) - 137/74(99)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (2 - 12)mmHg
   Total In:
                                                                  5,714 mL
                                                                    673 mL
   PO:
   TF:
                                                                  1,526 mL
                                                                    425 mL
   IVF:
                                                                  3,648 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    960 mL
   Urine:
                                                                  1,980 mL
                                                                    960 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  3,234 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.39/43/191/28/1
   Physical Examination
   General: Responsive to commands, garbled speech-at baseline per family
   HEENT: Sclera anicteric, MMM, oropharynx clear, PERRLA
   Neck: supple, JVP not elevated, no LAD, RIJ in place
   Lungs: Clear to auscultation bilaterally, bronchial breath sounds at
   the bases, rhonchi BL, no crackles or wheezes
   CV: Regular rate and rhythm, normal S1 + S2, 2/6 systolic murmur at the
   apex, no rubs or gallops
   Abdomen:  J tube in place, no erythema, soft, non-tender,
   non-distended, hypoactive bowel sounds present, no rebound tenderness
   or guarding, no organomegaly
   Ext: cold, mottled appearance of extremities, 2+ pulses, no edema,
   Neuro:  intubated, contractures present BL UE and LE, worse on the
   right, able to communicate by shaking and nodding
   Labs / Radiology
   206 K/uL
   10.2 g/dL
   147 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   7 mg/dL
   113 mEq/L
   143 mEq/L
   31.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2199-1-13**]  09:06 PM
                             [**2199-1-13**]  10:38 PM
                             [**2199-1-14**]  02:29 AM
                             [**2199-1-14**]  02:41 AM
                             [**2199-1-14**]  06:11 AM
                             [**2199-1-15**]  03:00 AM
                             [**2199-1-15**]  08:59 AM
                             [**2199-1-15**]  04:15 PM
                             [**2199-1-15**]  09:49 PM
                             [**2199-1-16**]  05:30 AM
   WBC
   20.3
   12.3
   9.4
   Hct
   30.6
   28.0
   31.4
   Plt
   [**Telephone/Fax (3) 3699**]
   Cr
   0.5
   0.4
   0.4
   0.4
   TropT
   0.01
   <0.01
   TCO2
   24
   22
   25
   27
   27
   Glucose
   [**Telephone/Fax (3) 3700**]47
   Other labs: PT / PTT / INR:20.1/32.4/1.9, CK / CKMB /
   Troponin-T:85/2/<0.01, Lactic Acid:1.4 mmol/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is a 62 yo M with PMH of HTN, type 2 DM, embolic and hemorrhagic
   CVA, and history of DVT who presents with lethargy likely secondary to
   infectious source
   .
   # Septic Shock:  resolved, Pt had leukocytosis, tachypnea, elevated
   lactate, hypotension. Source likely pneumonia given chest x-ray and
   purulent sputum.  Other possible source could be C diff given foul
   smelling stool, however no recent antibiotic use.  Cultures sent in
   ED.  Flu and Legionella negative.  CXR similar to previous film.
   - GPC
s in pairs, chains and clusters in sputum from ED, continue
   vancomycin for gram positive coverage for MRSA.  D/c Zosyn as no
   supportive Cx data at this point
   - C diff toxin positive, continue PO flagyl
   - Intermittently requiring pressors or fluids for BP control, continue
   to monitor closely with A line, will d/c line in afternoon if stable
   .
   # AMS:  resolved, Likely secondary to infection
   - continue home medications including oral morphine, gabapentin,
   mirtazapine
   .
   # Acute renal failure:  resolved with volume resuscitation, lLikely
   secondary to hypotension/septic shock-Stable/Resolved.
   - Trend
   .
   # Hypertension:  Hold home regimen of lasix and lisinopril given
   hypotension in the ED.  Can restart when/if becomes hypertensive.
   .
   # History of CVAs: bilateral embolic cerebellar [**2188**], hemorrhagic left
   thalamic [**2190**].  Continue simvastatin, anticoagulated with plavix.
   Continue baclofen for contractures.
   .
   # Type II Diabetes mellitus:  Monitor blood sugars QID, insulin sliding
   scale.  Restart gabapentin and morphine
   -Sugars well controlled
   .
   # Chronic Constipation:   Will discontinue miralax and lactulose for
   now given loose stools and monitor bowel movements.  Continue bowel
   regimen including colace, reglan, biscodyl, fleet enemas as needed,
   though with C diff, likely has infectious loose stools
   .
   # Dysphagia:  J tube in place, nutrition following
   .
   # Depression:  Continue duloxetine, mirtazapine
   -Duloxetine cannot be crushed, will change to paxil
   .
   # Hypothyroidism:  Continue levothyroxine.
   .
   # h/o DVT:  INR 1.9, Received 3 mg Coumadin this AM, will increase to 4
   mg
   .
   # FEN: Bolus LR PRN, replete electrolytes, TF
   .
   # Prophylaxis: coumadin, PPI
   .
   # Access:D/c R IJ and left A line, continue single lumen PICC
   .
   # Code: Full code confirmed with HCP
   .
   # Communication:  [**Name (NI) 3643**], wife and daughter in law
   .
   # Dispo: ICU now, pending pressures may be able to go to rehab tomorrow
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-1-15**] 07:00 PM 65 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2199-1-13**] 10:50 PM
   Multi Lumen - [**2199-1-13**] 10:51 PM
   PICC Line - [**2199-1-14**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: